US08530477B2
3-(4-Bromophenyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.64 g, 1.7 mmol), 1-methanesulfonylpiperazine (0.43 g, 2.6 mmol), tris-(dibenzylideneacetone)dipalladium (0.069 g, 0.07 mmol), S-Phos (0.11 g, 0.28 mmol), and sodium t-butoxide (0.25 g, 2.6 mmol) are placed in 10 ml of toluene under nitrogen. The reaction medium is stirred at reflux for 1 h 30. After hydrolysis with a saturated aqueous NaHCO3 solution, and extraction with ethyl acetate, the organic phase is washed with a saturated aqueous sodium chloride solution and dried over MgSO4. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of methanol/ethyl acetate in dichloromethane ranging from 100/0/0 to 7/2.5/0.5 (dichloromethane/ethyl acetate/methanol). 0.75 g of expected 3-[4-(4-methanesulfonylpiperazin-1-yl)phenyl]-3,8-diazabicyclo[3.2.1]-octane-8-carboxylic acid tert-butyl ester is obtained.

reactant | 3-(4-Bromophenyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.7 mmol, 0.64 g | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C2=CC=C(C=C2)Br | C17H23BrN2O2
reactant | 1-methanesulfonylpiperazine | 2.6 mmol, 0.43 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | S-Phos | 0.28 mmol, 0.11 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | sodium t-butoxide | 2.6 mmol, 0.25 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris-(dibenzylideneacetone)dipalladium | 0.07 mmol, 0.069 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[4-(4-methanesulfonylpiperazin-1-yl)phenyl]-3,8-diazabicyclo[3.2.1]-octane-8-carboxylic acid tert-butyl ester | 0.75 g | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C2=CC=C(C=C2)N2CCN(CC2)S(=O)(=O)C | C22H34N4O4S
